US08067445B2
Step 8: [2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-(4-chloro-benzoylamino)-6-methoxy-biphenyl-3-yl]-acetic acid
[2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-(4-chloro-benzoylamino)-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester (0.2 mmol) was hydrolyzed with lithium hydroxide to give the title compound.

reactant | [2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-(4-chloro-benzoylamino)-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester | 0.2 mmol | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)NC(C1=CC=C(C=C1)Cl)=O)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C35H35ClN2O6
reactant | lithium hydroxide | [OH-].[Li+]
product | [2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-(4-chloro-benzoylamino)-6-methoxy-biphenyl-3-yl]-acetic acid | C(C1=CC=CC=C1)OC(=O)N(CC)CC1=C(C=CC(=C1)NC(C1=CC=C(C=C1)Cl)=O)C1=CC(=CC=C1OC)CC(=O)O | C33H31ClN2O6
